US05560814
Preparation of 2-(4-oxopentyl)thiouronium chloride
Example 1 was repeated with thiourea and 3-chloropropyl methyl ketone, affording the title compound in a yield of 71%.

reactant | thiourea | NC(=S)N | CH4N2S
reactant | 3-chloropropyl methyl ketone | CC(=O)CCCCl | C5H9ClO
product | 2-(4-oxopentyl)thiouronium chloride | yield of 71% | [Cl-].O=C(CCCSC(=[NH2+])N)C | InChI=1S/C6H12N2OS.ClH/c1-5(9)3-2-4-10-6(7)8;/h2-4H2,1H3,(H3,7,8);1H
